US05700824
Preparation of 5-(4-butyl-2-chlorophenyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole (Compound No. 29)
N-methyl-N-(phenylsulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride (1.10 g), 4-butyl-2-chlorobenzonitrile (0.60 g) and anhydrous aluminum chloride (0.50 g) are added to o-dichlorobenzene (10 ml) and stirred at 120° C. for 1 hour. On completion of the reaction, chloroform (100 ml) is added and washed with dilute hydrochloric acid. After washing with water, the organic layer is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography using mixed solution of hexane-ethyl acetate as eluent to give 0.70 g of compound (refractive index: 1.5667).

reactant | N-methyl-N-(phenylsulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride | 1.10 g | CN(N=C(C1=C(C=CC=C1F)Cl)Cl)S(=O)(=O)C1=CC=CC=C1 | C14H11Cl2FN2O2S
reactant | 4-butyl-2-chlorobenzonitrile | 0.60 g | C(CCC)C1=CC(=C(C#N)C=C1)Cl | C11H12ClN
reactant | aluminum chloride | 0.50 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | o-dichlorobenzene | 10 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(4-butyl-2-chlorophenyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 0.70 g | C(CCC)C1=CC(=C(C=C1)C1=NC(=NN1C)C1=C(C=CC=C1F)Cl)Cl | C19H18Cl2FN3
